US05527819
Step C: Ethyl 3-phenylsulfonyl-5-chloroindole-2-carboxylate
Ethyl 3-phenylthio-5-chloroindole-2-carboxylate (642 mg, 1.94 mmol) was dissolved in chloroform (35 mL) and a dried (Na2SO4) solution of m-chloroperoxybenzoic acid (55% pure, 1.30 g, 4.1 mmol) in chloroform (20 mL) was added dropwise. The progress of the oxidation was monitored by tlc until complete. After 5 hours, the reaction was diluted with chloroform and some methanol and the solution washed with aq. NaHCO3 and aq. Na2CO3. The dried (Na2SO4) organic layer was filtered through a pad of charcoal and the solvents removed under reduced pressure. The residue was triturated with diethyl ether to yield the product. Crystallization from methylene chloride and diethyl ether gave analytically pure material, mp 201°-202° C.

reactant | Ethyl 3-phenylthio-5-chloroindole-2-carboxylate | 1.94 mmol, 642 mg | C1(=CC=CC=C1)SC1=C(NC2=CC=C(C=C12)Cl)C(=O)OCC | C17H14ClNO2S
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | m-chloroperoxybenzoic acid | 4.1 mmol, 1.30 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 35 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 3-phenylsulfonyl-5-chloroindole-2-carboxylate | C1(=CC=CC=C1)S(=O)(=O)C1=C(NC2=CC=C(C=C12)Cl)C(=O)OCC | C17H14ClNO4S
